US07582769B2
({5-[3-Cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-[1,3,4]thiadiazole-2-sulfonyl}-methyl-amino)-acetic acid
Prepared in a similar manner to {5-[3-cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-[1,3,4]thiadiazole-2-sulfonylamino}-acetic acid via cyclohexyl-(trans-4-methyl-cyclohexyl)-amine and [(5-amino-1,3,4-thiadiazole-2-sulfonyl)-methyl-amino]-acetic acid ethyl ester to give the title compound.

reactant | {5-[3-cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-[1,3,4]thiadiazole-2-sulfonylamino}-acetic acid | C1(CCCCC1)N(C(NC1=NN=C(S1)S(=O)(=O)NCC(=O)O)=O)[C@@H]1CC[C@H](CC1)C | C18H29N5O5S2
reactant | cyclohexyl-(trans-4-methyl-cyclohexyl)-amine | C1(CCCCC1)N[C@@H]1CC[C@H](CC1)C | C13H25N
reactant | [(5-amino-1,3,4-thiadiazole-2-sulfonyl)-methyl-amino]-acetic acid ethyl ester | C(C)OC(CN(C)S(=O)(=O)C=1SC(=NN1)N)=O | C7H12N4O4S2
product | ({5-[3-Cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-[1,3,4]thiadiazole-2-sulfonyl}-methyl-amino)-acetic acid | C1(CCCCC1)N(C(NC1=NN=C(S1)S(=O)(=O)N(C)CC(=O)O)=O)[C@@H]1CC[C@H](CC1)C | C19H31N5O5S2
